US08242125B2
110-B. 5-[6-(2-Oxo-pyrrolidin-1-ylmethyl)-pyrimidin-4-yloxy]-indole-1-carboxylic acid (4-fluoro-3-trifluoromethyl-phenyl)-amide
5-{6-[(4-Bromo-butyrylamino)-methyl]-pyrimidin-4-yloxy}-indole-1-carboxylic acid (4-fluoro-3-trifluoromethyl-phenyl)-amide (0.353 g, 0.595 mmol) is dissolved in 10 mL THF and cooled to 0° C. Sodium hydride (63 mg, 1.5 mmol, 60% in mineral oil) is added and the reaction is allowed to warm to room temperature overnight. The reaction is quenched with water and diluted with ethyl acetate. The organic layer is removed, dried, and concentrated and the residue is separated via semi-prep HPLC (C18; 20-100% I/H2O with 0.1% TFA) to provide the title compound. MS (ESI) m/z 514.9 (M+1); 1H NMR (400 MHz, DMSO-d6) δ ppm 10.40 (s, 1H), 8.68 (d, J=1.01 Hz, 1H), 8.28 (d, J=9.09 Hz, 1H), 8.09-8.12 (m, 2H), 7.99-8.03 (m, 1H), 7.57 (t, J=9.85 Hz, 1H), 7.49 (d, J=2.27 Hz, 1H), 7.15 (dd, J=8.97, 2.40 Hz, 1H), 6.94 (d, J=1.01 Hz, 1H), 6.81 (d, J=3.79 Hz, 1H), 4.45 (s, 2H), 3.42 (t, J=6.95 Hz, 2H), 2.29-2.34 (m, 3H), 2.00 (t, J=7.58 Hz, 2H).

reactant | 5-{6-[(4-Bromo-butyrylamino)-methyl]-pyrimidin-4-yloxy}-indole-1-carboxylic acid (4-fluoro-3-trifluoromethyl-phenyl)-amide | 0.595 mmol, 0.353 g | FC1=C(C=C(C=C1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=NC=NC(=C1)CNC(CCCBr)=O)C(F)(F)F | C25H20BrF4N5O3
reactant | Sodium hydride | 1.5 mmol, 63 mg | [H-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-[6-(2-Oxo-pyrrolidin-1-ylmethyl)-pyrimidin-4-yloxy]-indole-1-carboxylic acid (4-fluoro-3-trifluoromethyl-phenyl)-amide | FC1=C(C=C(C=C1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=NC=NC(=C1)CN1C(CCC1)=O)C(F)(F)F | C25H19F4N5O3
